US05750549
5-Cyano-2-isopropoxy-benzaldehyde
The title compound was prepared by the treatment of 5-bromo-2-isopropoxy-benzaldehyde (3.5 gm, 0.014 mol) with copper(I) cyanide (2.5 gm, 0.028 mol) in refluxing DMF for 28 hours. The cooled mixture was poured into a mixture of water (100 mL) and ethyl acetate (100 mL). The mixture was filtered through a pad of Celite, the organic layer separated, washed with saturated brine solution, dried (Na2SO4), and evaporated. The title compound was purified by flash chromatography eluting with 15% ethyl acetate in hexane; yield 1.9 gm of a white solid.

reactant | 5-bromo-2-isopropoxy-benzaldehyde | 0.014 mol, 3.5 gm | BrC=1C=CC(=C(C=O)C1)OC(C)C | C10H11BrO2
reactant | copper(I) cyanide | 0.028 mol, 2.5 gm | [Cu]C#N
reactant | DMF | CN(C)C=O | C3H7NO
reactant | water | 100 mL | O | H2O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 5-Cyano-2-isopropoxy-benzaldehyde | C(#N)C=1C=CC(=C(C=O)C1)OC(C)C | C11H11NO2
